US04185115
Preparation of Ethyl p-[3-(o-methoxyphenyl)propyl]aminobenzoate
A mixture of 14.5 g. of ethyl p-aminobenzoate, 10 g. of 1-bromo-3-(o-methoxyphenyl)propane and 50 ml. of hexamethylphosphoramide is heated at 130° C. for 15 hours, cooled and diluted with 20 ml. of water. The mixture is chilled, diluted with 50 ml. of cold ethanol:H2O (1:1) and filtered. The solid is washed with three 50 ml. portions of cold ethanol-water (1:1) and with water to give crystals, m.p. 106°-109° C. Recrystallization from ethanol (100 ml.) gives yellow crystals, m.p. 111°-113° C.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 1-bromo-3-(o-methoxyphenyl)propane | BrCCCC1=C(C=CC=C1)OC | C10H13BrO
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | Ethyl p-[3-(o-methoxyphenyl)propyl]aminobenzoate | COC1=C(C=CC=C1)CCCNC1=CC=C(C(=O)OCC)C=C1 | C19H23NO3
